US07001904B1
N-(3-dimethylaminopropyl)-N′-(2,6-dimethylphenyl)-N″-(7-hydroxy-6-methoxyquinazolin-4-yl)guanidine
A mixture of N-(7-benzyloxy-6-methoxyquinazolin-4-yl)-N′-(3-dimethylaminopropyl)-N″-(2,6-dimethylphenyl)guanidine (2.21 g) and trifluoroacetic acid (40 ml) was stirred and heated to 70° C. for 16 hours. The reaction mixture was evaporated and the residue was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulphate, filtered and evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and a 2M solution of ammonia gas in methanol as eluent. There was thus obtained the title compound (1.66 g); NMR Spectrum: (DMSOd6, 100° C.) 1.77 (m, 2H), 2.07 (s, 6H), 2.29 (s, 6H), 2.36 (t, 2H), 3.59 (t, 2H), 3.81 (s, 3H), 7.0 (s, 1H), 7.19 (m, 3H), 7.67 (s, 1H), 8.4 (s, 1H), 9.4 (br s, 1H), 10.8 (br s, 1H); Mass Spectrum: M+H+ 423.

reactant | N-(7-benzyloxy-6-methoxyquinazolin-4-yl)-N′-(3-dimethylaminopropyl)-N″-(2,6-dimethylphenyl)guanidine | 2.21 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC(=NC1=C(C=CC=C1C)C)NCCCN(C)C)OC | C30H36N6O2
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(3-dimethylaminopropyl)-N′-(2,6-dimethylphenyl)-N″-(7-hydroxy-6-methoxyquinazolin-4-yl)guanidine | 1.66 g | CN(CCCNC(=NC1=NC=NC2=CC(=C(C=C12)OC)O)NC1=C(C=CC=C1C)C)C | C23H30N6O2
